US08133882B2
200 mg of diethyl {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonate was dissolved in 2.0 ml of chloroform, and 0.4 ml of bromotrimethylsilane was added, followed by overnight stirring at room temperature. Ethanol was added to the reaction mixture, followed by concentration under a reduced pressure. Ethyl acetate was added to the resulting residue, and the insoluble materials were collected by filtration to obtain 120 mg of {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonic acid hydrobromide.

reactant | diethyl {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonate | 200 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)/C=C/P(OCC)(OCC)=O)=O)F | C26H38FN2O4P
reactant | bromotrimethylsilane | 0.4 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | Ethanol | C(C)O | C2H6O
solvent | chloroform | 2.0 ml | C(Cl)(Cl)Cl | CHCl3
product | {(E)-2-[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]vinyl}phosphonic acid hydrobromide | 120 mg | Br.C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)/C=C/P(O)(O)=O)=O)F | InChI=1S/C22H30FN2O4P.BrH/c1-3-17(4-2)25-14-15(10-11-30(27,28)29)22(26)18-12-19(23)20(13-21(18)25)24-16-8-6-5-7-9-16;/h10-14,16-17,24H,3-9H2,1-2H3,(H2,27,28,29);1H/b11-10+;
